US07388061B2
(3) Synthesis of 3-ethyl-2,4-pentanediol dibenzoate
In N2 atmosphere free of water and oxygen, to a reactor were successively added 0.02 mol 3-ethyl-2,4-pentanediol, 20 ml THF, and 0.06 mol pyridine, then slowly added dropwise 0.05 mol benzoyl chloride. The reaction was heated refluxing for 8 hours, and allowed to continue at room temperature for further 12 hours. After the reaction was finished, the reaction mixture was filtered and the cake was washed with anhydrous ethyl ether for three times. The organic phase was completely washed with saturated saline, and dried over anhydrous sodium sulfate. Removing the solvent gave 5.1 g product.

reactant | oxygen | O=O | O2
reactant | 3-ethyl-2,4-pentanediol | 0.02 mol | C(C)C(C(C)O)C(C)O | C7H16O2
reactant | pyridine | 0.06 mol | N1=CC=CC=C1 | C5H5N
reactant | benzoyl chloride | 0.05 mol | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | THF | 20 ml | C1CCOC1 | C4H8O
solvent | N2 | N#N | N2
solvent | water | O | H2O
product | 3-ethyl-2,4-pentanediol dibenzoate | 5.1 g | C(C1=CC=CC=C1)(=O)OC(C)C(C(C)OC(C1=CC=CC=C1)=O)CC | C21H24O4
